US06335463B1
Preparation of 5-chloro-1-(4-fluorophenyl)-3-(1,2,3,6-tetrahydropyridin-4-yl)indole
5-chloro-1-(4-fluorophenyl)indole (6.70 kg) and 4-piperidone-mono-hydrate,hydrochloride (8.38 kg) were transferred to a 200 L reactor under N2 cover. Acetic acid (67 L) was added and the reaction mixture was heated to 60° C. Concentrated HCl (37%, 33.5 L) was added during ½ hour and then the mixture was heated to the reflux temperature (85° C.) and refluxed for 1 hour (final temperature 95° C.). After cooling to 30° C., 33.5 L acetone was added followed by further cooling to 25° C. Filtration, wash (acetone 20 L) and drying in vacuum at 60° C. gave the title product as a white powder, yield 8.94 kg.

reactant | 5-chloro-1-(4-fluorophenyl)indole | 6.70 kg | ClC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C14H9ClFN
reactant | Acetic acid | 67 L | C(C)(=O)O | C2H4O2
reactant | HCl | 33.5 L | Cl | ClH
solvent | acetone | 33.5 L | CC(=O)C | C3H6O
product | 5-chloro-1-(4-fluorophenyl)-3-(1,2,3,6-tetrahydropyridin-4-yl)indole | ClC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)C=1CCNCC1 | C19H16ClFN2
